US05635510
47.1 Synthesis of 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile
Combine 1-benzyl-4-oxo-piperidine (100 mmol), 4-fluorophenylamine (110 mmol), and toluene (300 mL). Heat at reflux for 3 h with azeotropic removal of water. Cool to 50° C. Add acetone cyanohydrin (277 mmol). Slowly distill away the acetone. Concentrate the solvent in vacuo to obtain a residue. Chromatograph on silica gel to obtain the title compound.

reactant | 1-benzyl-4-oxo-piperidine | 100 mmol | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 4-fluorophenylamine | 110 mmol | FC1=CC=C(C=C1)N | C6H6FN
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
reactant | acetone cyanohydrin | 277 mmol | CC(C#N)(O)C | C4H7NO
solvent | water | O | H2O
product | 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC=C(C=C1)F | C19H20FN3
